US07312214B2
Part A. 4-Iodophenylcyclopropyl acetic acid (1.93 g, 6.70 mmol) and 1-(4-methoxyphenyl)-3-(ethoxycarbonyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one (1.41 g, 4.46 mmol) were stirred in DMSO (4 mL) under N2. K2CO3 (1.84 g, 13.33 mmol, 3.0 eq) was added followed by the addition of 1,10-phenanthroline (0.15 g, 20 mol %) and CuI (0.16 g, 20 mol %). The resulting mixture was stirred at 110° C. overnight. LC-MS showed completion of the reaction. EtOAc was added to the cooled solution. It was acidified with 1N HCl, and the organic layer was washed with H2O, and brine, dried over MgSO4, filtered, and concentrated to afford 1-{4-[3-(ethoxycarbonyl)-1-(4-methoxyphenyl)-7-oxo-1,4,5,7-tetrahydro-6H-pyrazolo[3,4-c]pyridin-6-yl]phenyl}cyclopropanecarboxylic acid (1.54 g, yield: 72.6%). LC/MS (ESI+) 476.4 (M+H)+, tR=2.58 min (10–90% CH3CN/H2O in a 4-min run).

reactant | 4-Iodophenylcyclopropyl acetic acid | 6.70 mmol, 1.93 g | IC1=CC=C(C=C1)C(C(=O)O)C1CC1 | C11H11IO2
reactant | 1-(4-methoxyphenyl)-3-(ethoxycarbonyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one | 4.46 mmol, 1.41 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(NCC2)=O)C(=O)OCC | C16H17N3O4
reactant | K2CO3 | 13.33 mmol, 1.84 g, 3.0 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,10-phenanthroline | 0.15 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.16 g | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{4-[3-(ethoxycarbonyl)-1-(4-methoxyphenyl)-7-oxo-1,4,5,7-tetrahydro-6H-pyrazolo[3,4-c]pyridin-6-yl]phenyl}cyclopropanecarboxylic acid | 1.54 g, yield: 72.6% | C(C)OC(=O)C1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C2(CC2)C(=O)O)=O)C2=CC=C(C=C2)OC | C26H25N3O6
